US06072067
Preparation of (dimethylaminoethyl)di(2-phenyl-propyl)cyclopentadiene
12.5 mL of a 1.6 molar solution of n-butyllithium in hexane was added dropwise to a cooled (0° C.) solution of di-(2-phenyl-propyl)-cyclopentadiene (6.05 g; 20.0 mmol) in dry tetrahydrofuran (100 ml) under a nitrogen atmosphere in a 250 mL three-necked round-bottomed flask provided with a magnetic stirrer and a dropping funnel. After 24 hours of stirring at room temperature, a solution of 2-dimethylaminoethyl tosylate (20.0 mmol) prepared in situ in tetrahydrofuran/hexane was added. After 18 hours of stirring, the conversion was found to be 90%, and water (100 ml) was carefully added dropwise to the reaction mixture and the tetrahydrofuran was then distilled off. The crude product was extracted with ether, and the combined organic phase was then dried with sodium sulphate, and boiled down. The residue was purified on a silica gel column, which resulted in 5.98 grams (80%) of (dimethyl-aminoethyl)di(2-phenyl-propyl)cyclopentadiene.

reactant | n-butyllithium | C(CCC)[Li]
reactant | di-(2-phenyl-propyl)-cyclopentadiene | 20.0 mmol, 6.05 g | C1(=CC=CC=C1)C(CC1(C=CC=C1)CC(C)C1=CC=CC=C1)C | C23H26
reactant | 2-dimethylaminoethyl tosylate | 20.0 mmol | S(=O)(=O)(OCCN(C)C)C1=CC=C(C)C=C1 | C11H17NO3S
reactant | water | 100 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran hexane | O1CCCC1.CCCCCC
product | (dimethylaminoethyl)di(2-phenyl-propyl)cyclopentadiene | CN(C)CCC1=CC=CC1(CC(C)C1=CC=CC=C1)CC(C)C1=CC=CC=C1 | C27H35N
